US04182881
A. N-[Dichlorophosphinyl]-2-furamide
A mixture of 11.1 g (0.1 mole) of furamide, 20.8 g (0.1 mole) of phosphorus pentachloride and 150 ml of AR carbon tetrachloride was heated at 70° for 30 min. or until the HCl gas evolution had ceased. Cooled to 30° and 4.7 g (0.1 mole) of 97% formic acid was added dropwise. Stirring was continued for 45 min., before filtering. The product was washed with AR carbon tetrachloride and air-dried to give 17.8 g, m.p. softens 83°, melts 93°-112°.

reactant | furamide | 0.1 mole, 11.1 g | O1C(=CC=C1)C(=O)N | C5H5NO2
reactant | phosphorus pentachloride | 0.1 mole, 20.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
reactant | formic acid | 0.1 mole, 4.7 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-2-furamide | ClP(=O)(NC(=O)C=1OC=CC1)Cl | C5H4Cl2NO3P
